US04098892
1.9 g of benzoguanamine and 2.6 g of nicotinic acid are dissolved in 50 ml of pyridine and mixed with 2.2 g of chloroethyl carbonate. After heating the mixture at 60° C with agitation for 3 hours, it is processed as described in Example 4 to yield 1.3 g of 2,4-bis(nicotinamido)-6-phenyl-s-triazine [dinicotinoylbenzoguanamine].

reactant | benzoguanamine | 1.9 g | C=1C=CC(=CC1)C=2N=C(N=C(N2)N)N | C9H9N5
reactant | nicotinic acid | 2.6 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | chloroethyl carbonate | 2.2 g | C(OCCCl)([O-])=O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-bis(nicotinamido)-6-phenyl-s-triazine | 1.3 g | C(C1=CN=CC=C1)(=O)NC1=NC(=NC(=N1)NC(C1=CN=CC=C1)=O)C1=CC=CC=C1 | C21H15N7O2
